US08426437B2
(S)-8-[(1-tert-butoxycarbony-pyrrolidin-2-ylmethyl)-cyclopropyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate is prepared according to synthesis 111, from 326 mg (1 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid and 288 mg (1.2 mmol) of (S)-1-tert-butoxycarbonyl-2-cyclopropylaminomethyl-pyrrolidine to give, after esterification according to general method C (using di-n-propylsulfate as the dialkylsulfate) and purification by chromatography on silica (eluent dichloromethane/methanol 99/1 then 95/5), 99 mg (17% in two stages) of (S)-8-[(1-tert-butoxycarbonyl-pyrrolidin-2-ylmethyl)-cyclopropyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1 mmol, 326 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | (S)-1-tert-butoxycarbonyl-2-cyclopropylaminomethyl-pyrrolidine | 1.2 mmol, 288 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC1CC1 | C13H24N2O2
reactant | di-n-propylsulfate | C(CC)OS(=O)(=O)OCCC | C6H14O4S
product | (S)-8-[(1-tert-butoxycarbony-pyrrolidin-2-ylmethyl)-cyclopropyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C3CC3.C(CC)C(=O)[O-] | InChI=1S/C24H30N4O5S.C4H8O2/c1-24(2,3)33-23(30)27-12-4-5-16(27)14-28(15-6-7-15)34(31,32)17-8-9-20-19(13-17)18-10-11-25-21(18)22(29)26-20;1-2-3-4(5)6/h8-11,13,15-16,25H,4-7,12,14H2,1-3H3,(H,26,29);2-3H2,1H3,(H,5,6)/p-1/t16-;/m0./s1
